// Aim  : Plot transfer characteristic of inverter NMOS

.title NMOS_inverter_Transfer_Characteristic_65nm_U24EC025
.include cmos_65nm.txt

m1 d_out100k g 0 0 nmos w=100nm l= 65nm
vgs g 0 1.2
VDD vdd 0 1.2
r1 vdd d_out100k 100k

.dc vgs 0 1.2 0.01

.control

set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = svg
run
plot v(d_out100k) v(g) xlabel 'vin' ylabel 'vout'
hardcopy output\NMOS_Inverter_Transfer_Characteristics_65nm.svg v(d_out100k) v(g) xlabel 'vin' ylabel 'vout'
.endc
.end
